US08420816B2
Step B: (R)-tert-butyl 2-(6-fluoro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate
Crude (R)-4-((l-tert-butoxy-3-methyl-1-oxobutan-2-ylamino)methyl)-5-fluoro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid was heated in HATU (2.60 g, 7.19 mmol) and 4-methylmorpholine (1.091 g, 10.79 mmol) at reflux for 3 h. The reaction was incomplete by LC-MS. HATU (1.37 g, mmol, 3.79 mmol) and 4-methylmorpholine (1.091 g, 10.79 mmol) were added and the reaction mixture was stirred at reflux for 16 h. Following reaction, the mixture was washed with aqueous NaHCO3 (sat.) and extracted with DCM. The organics were washed with brine, dried over Na2SO4, and concentrated to a brown oil. Purification by silica column chromatography (EtOAc/DCM, 0-20%) afforded the title compound as a white foam. (0.933 g, 51.7%). 1H NMR (400 MHz, DMSO-d6) δ 0.80 (d, J=6.57 Hz, 3 H) 1.02 (d, J=6.57 Hz, 3 H) 1.39 (s, 9 H) 2.31-2.39 (m, 4 H) 4.77 (d, J=10.61 Hz, 1 H) 5.02 (d, J=7.58 Hz, 2 H) 7.46 (d, J=7.83 Hz, 2 H) 8.08 (d, J=8.34 Hz, 2 H) 8.29 (s, 1 H) 8.44 (d, J=2.78 Hz, 1 H). [M+H] calc'd for C25H28FN3O5S, 502; found, 502.3.

reactant | (R)-4-((l-tert-butoxy-3-methyl-1-oxobutan-2-ylamino)methyl)-5-fluoro-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | C(C)(C)(C)OC([C@@H](C(C)C)NCC1=C2C(=NC=C1F)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)=O | C25H30FN3O6S
reactant | HATU | 7.19 mmol, 2.60 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 10.79 mmol, 1.091 g | CN1CCOCC1 | C5H11NO
reactant | HATU | 3.79 mmol, 1.37 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 10.79 mmol, 1.091 g | CN1CCOCC1 | C5H11NO
product | (R)-tert-butyl 2-(6-fluoro-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)-3-methylbutanoate | FC1=CN=C2C=3C(C(N(CC13)[C@@H](C(=O)OC(C)(C)C)C(C)C)=O)=CN2S(=O)(=O)C2=CC=C(C)C=C2 | C25H28FN3O5S
